US06313113B1
4-[[2-Methyl-4-oxo-3,4-dihydro-(2H)-1,3-benzoxazine-2-yl]methoxy]nitrobenzene
Preparation of 4-[2-oxo-propoxy]nitrobenzene—To stirred suspension of K2CO3 (50.0 g, 0.36 mol) in dry DMF (500 mL) was added 4-nitrophenol (25.0 g, 0.18 mol) and stirred for 30 min at 25° C. Chloroacetone (21.5 mL, 0.27 mol) was added to the reaction mixture and stirred for 24 h at 25-30° C. The reaction mixture was filtered through a buchner funnel. The filtrate was poured into water (500 mL) and extracted with ethyl acetate (3×300 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated. The crude compound was purified by column chromatography using EtOAc:Pet. ether (1:2) as eluent to yield the title compound (11.0 g, 31%) as a colourless liquid.

reactant | 4-[2-oxo-propoxy]nitrobenzene | O=C(COC1=CC=C(C=C1)[N+](=O)[O-])C | C9H9NO4
reactant | K2CO3 | 0.36 mol, 50.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-nitrophenol | 0.18 mol, 25.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | Chloroacetone | 0.27 mol, 21.5 mL | ClCC(C)=O | C3H5ClO
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 4-[[2-Methyl-4-oxo-3,4-dihydro-(2H)-1,3-benzoxazine-2-yl]methoxy]nitrobenzene | 11.0 g, 31% | CC1(OC2=C(C(N1)=O)C=CC=C2)COC2=CC=C(C=C2)[N+](=O)[O-] | C16H14N2O5
